US07285572B2
(2R)-2-[[(1R)-1-(2-bromophenyl)ethoxy]methyl]oxirane
(R)-1-(2-Bromophenyl)ethanol (30.0 g) and (R)-glycidyl nosylate(50.3 g) were dissolved in N,N-dimethylformamide (300 ml), sodium hydride (7.76 g, 60% in oil) was added and the mixture was stirred at room temperature for 2 hr. 10% Aqueous citric acid (600 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=6:1) to give the title compound (32.9 g).

reactant | (R)-1-(2-Bromophenyl)ethanol | 30.0 g | BrC1=C(C=CC=C1)[C@@H](C)O | C8H9BrO
reactant | (R)-glycidyl nosylate | 50.3 g | S(=O)(=O)(OC[C@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | sodium hydride | 7.76 g | [H-].[Na+]
reactant | citric acid | 600 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | (2R)-2-[[(1R)-1-(2-bromophenyl)ethoxy]methyl]oxirane | 32.9 g | BrC1=C(C=CC=C1)[C@@H](C)OC[C@@H]1OC1 | C11H13BrO2
